US04937251
2-[2-[(5-Bromopentyl)oxy]ethyl]pyridine
From 2-pyridineethanol (5.0 g) and 1,5-dibromopentane (16.6 ml), with a reaction time of 4 h. FCC eluting with hexane-diethyl ether (1:0→1:1) gave the title compound as a colourless oil (6.15 g), t.l.c. (ether-hexane 1:1) Rf 0.19.

reactant | 2-pyridineethanol | 5.0 g | N1=C(C=CC=C1)CCO | C7H9NO
reactant | 1,5-dibromopentane | 16.6 ml | BrCCCCCBr | C5H10Br2
product | 2-[2-[(5-Bromopentyl)oxy]ethyl]pyridine | 6.15 g | BrCCCCCOCCC1=NC=CC=C1 | C12H18BrNO
